US09130244B2
20.00 g (0.149 mol) of 2-hydroxysuccinic acid and 0.2 mL of methanesulfonic acid were dissolved in 100 mL of toluene, 50.16 g (0.895 mol) of propargyl alcohol was added thereto. Using a Dean-Stark device, this was reacted for 4 hours while water formed as a side product was removed under normal pressure. The disappearance of the starting materials was confirmed through gas chromatography, and sodium acetate was added to the system. The resulting salt was filtered away, and the filtrate was concentrated under reduced pressure. The residue was purified through column chromatography (Wakogel C-200, elution with hexane/ethyl acetate=2/1) to give 13.35 g (yield 43%) of di(2-propynyl) 2-hydroxysuccinate.

reactant | 2-hydroxysuccinic acid | 0.149 mol, 20.00 g | OC(C(=O)O)CC(=O)O | C4H6O5
reactant | methanesulfonic acid | 0.2 mL | CS(=O)(=O)O | CH4O3S
reactant | propargyl alcohol | 0.895 mol, 50.16 g | C(C#C)O | C3H4O
reactant | water | O | H2O
reactant | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | di(2-propynyl) 2-hydroxysuccinate | 13.35 g, yield 43% | OC(C(=O)OCC#C)CC(=O)OCC#C | C10H10O5
